US08034953B2
Step 2. N-(3-Bromo-4-fluorophenyl)-N′-hydroxy-4-[(1H-tetrazol-5-ylmethyl)amino]-1,2,5-oxadiazole-3-carboximidamide
A solution of N-{4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-1H-tetrazole-5-carboxamide (12 mg, 27 μmol) in pyridine (0.3 mL) was treated with phosphorus pentachloride (13 mg, 60 μmol) at 25° C. The reaction mixture was stirred at 0° C. for 2 h, concentrated, rediluted with toluene and concentrated to a residue. This material was diluted with ethanol (1 mL), treated with sodium cyanoborohydride (5 mg, 82 μmol), and stirred for 2 h. The reaction mixture was concentrated, diluted with ethanol (1 mL), treated with 2.0 M sodium hydroxide in water (0.2 mL), and stirred for 45 min. Purification of the crude reaction mixture by preparative LCMS gave the desired product (2 mg, 19%). LCMS for C11H10BrFN9O2 (M+H)+: m/z=398.0, 400.0.

reactant | N-{4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-1H-tetrazole-5-carboxamide | 27 μmol, 12 mg | BrC=1C=C(C=CC1F)N1C(=NOC1=O)C=1C(=NON1)NC(=O)C1=NN=NN1 | C12H5BrFN9O4
reactant | phosphorus pentachloride | 60 μmol, 13 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium cyanoborohydride | 82 μmol, 5 mg | C(#N)[BH3-].[Na+]
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-Bromo-4-fluorophenyl)-N′-hydroxy-4-[(1H-tetrazol-5-ylmethyl)amino]-1,2,5-oxadiazole-3-carboximidamide | 2 mg, 19% | BrC=1C=C(C=CC1F)NC(=NO)C1=NON=C1NCC1=NN=NN1 | C11H9BrFN9O2
